US07645789B2
A mixture of 4-chloro-6-(chloromethyl)benzo[d][1,3]dioxole (6.0 g, 29 mmol) and NaCN (1.6 g, 32 mmol) in DMSO (20 mL) was stirred at 40° C. for 1 h and was then poured into water. The mixture was extracted with EtOAc (30 mL×3). The combined organic layers were washed with water and brine, dried over Na2SO4 and evaporated under reduced pressure to afford 2-(7-chlorobenzo[d][1,3]dioxol-5-yl)acetonitrile (3.4 g, 58%). 1H NMR δ 6.81 (s, 1H), 6.71 (s, 1H), 6.07 (s, 2H), 3.64 (s, 2H). 13C-NMR 149.2, 144.3, 124.4, 122.0, 117.4, 114.3, 107.0, 102.3, 23.1.

reactant | 4-chloro-6-(chloromethyl)benzo[d][1,3]dioxole | 29 mmol, 6.0 g | ClC1=CC(=CC=2OCOC21)CCl | C8H6Cl2O2
reactant | NaCN | 32 mmol, 1.6 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 2-(7-chlorobenzo[d][1,3]dioxol-5-yl)acetonitrile | 3.4 g, 58% | ClC1=CC(=CC2=C1OCO2)CC#N | C9H6ClNO2
